US20010056203A1
Preparation of 2-(4-benzyloxycarbonylphenoxy)-3,4,5,6-tetrafluoropyridine
33.8 g of pentafluoropyridine (0.2 mol) are dissolved in 500 ml of dimethylformamide, the solution is cooled to 0C by means of a cryostat, and a solution of 53.3 g of potassium 4-benzyloxycarbonylphenoxide (0.2 mol) in 400 ml of dimethylformamide is then added dropwise over the course of 2 hours. After 24 hours at 0° C., the potassium salt has reacted. The dimethylformamide is then removed in a rotary evaporator, the residue is taken up in a little tetrahydrofuran, and the solution is filtered through a silica-gel column. The clear solution obtained is evaporated in a rotary evaporator until the reaction product precipitates out. The reaction produce is then stirred in n-hexane, filtered off via a fluted filter and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet (yield: 91%).

reactant | pentafluoropyridine | 0.2 mol, 33.8 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | potassium 4-benzyloxycarbonylphenoxide | 0.2 mol, 53.3 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C([O-])C=C1.[K+]
reactant | potassium | [K] | K
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | 2-(4-benzyloxycarbonylphenoxy)-3,4,5,6-tetrafluoropyridine | yield: 91% | C(C1=CC=CC=C1)OC(=O)C1=CC=C(OC2=NC(=C(C(=C2F)F)F)F)C=C1 | C19H11F4NO3
